US04014679
60 g of 3,3-dimethoxy-hexananilide were heated at 145° C until the distillation of methanol ceased and after cooling, isopropyl ether was added thereto. The precipitate formed was recovered by vacuum filtration to obtain 24 g of 3-methoxy-2-hexenanilide melting at 104° C.

reactant | 3,3-dimethoxy-hexananilide | 60 g | COC(CC(=O)NC1=CC=CC=C1)(CCC)OC | C14H21NO3
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | CO | CH4O
product | 3-methoxy-2-hexenanilide | 24 g | COC(=CC(=O)NC1=CC=CC=C1)CCC | C13H17NO2
